US05373011
Preparation of 4-Chloro-8-quinazolinol
A solution of boron trichloride in dichloromethane (1.0 molar, 46.0 mL) is added via syringe to a solution of 4-chloro-8-methoxyquinazoline (2.24 g, 11.5 mmol) in chloroform, under a nitrogen atmosphere. The reaction mixture is heated at reflux for 1/2 hour, cooled to room temperature and diluted with a mixture of ice and saturated sodium bicarbonate solution. The phases are separated and the aqueous phase is extracted with chloroform. The organic phases are combined, washed with a 10% ethylenediaminetetraacetic acid (EDTA) solution, dried over MgSO4 and concentrated in vacuo to obtain the title product as a white solid, 1.93 g (93%), mp>252° C.

reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | 4-chloro-8-methoxyquinazoline | 11.5 mmol, 2.24 g | ClC1=NC=NC2=C(C=CC=C12)OC | C9H7ClN2O
solvent | dichloromethane | 1.0 molar, 46.0 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Chloro-8-quinazolinol | ClC1=NC=NC2=C(C=CC=C12)O | C8H5ClN2O
